US08791107B2
(R)-5-(2-(1H-indol-4-yl)-6a,7,9,10-tetrahydro-[1,4]oxazino[3,4-h]pteridin-5(6H)-yl)-2-methylpentan-2-ol
To a 25 mL pear flask was added (R)-5-(2-(1H-indol-4-yl)-6a,7,9,10-tetrahydro-[1,4]oxazino[3,4-h]pteridin-5(6H)-yl)-2-methylpentan-2-yl acetate (PREPARATION x82, 48 mg, 0.107 mmol) in methanol (3 mL) to give a yellow solution. Aqueous NaOH (3N, 0.4 mL) was added and the mixture was stirred at 50° C. for 4 hours, before being cooled to room temperature. The reaction mixture was partitioned between saturated NaHCO3 and ethyl acetate, and the aqueous layer was extracted a second time with ethyl acetate. The combined organic layers were dried over MgSO4, filtered, and concentrated. After trituration with Et2O, the solid product was dried in vacuo to give the title compound as an off-white solid (31 mg, 71%). 1H NMR (400 MHz, DMSO-d6) δ ppm 1.10 (s, 6H), 1.32-1.48 (m, 2H), 1.53-1.73 (m, 2H), 2.95-3.10 (m, 2H), 3.11-3.25 (m, 2H), 3.26-3.40 (m, 2H), 3.50-3.64 (m, 2H), 3.93 (dd, J=10.99, 3.16 Hz, 1H), 4.06 (dd, J=11.49, 3.16 Hz, 1H), 4.19 (s, 1H), 4.52 (d, J=11.62 Hz, 1H), 7.11 (t, J=7.71 Hz, 1H), 7.29-7.44 (m, 3H), 7.77 (s, 1H), 7.93 (dd, J=7.45, 0.88 Hz, 1H), 11.11 (br s, 1H); ESI-MS m/z [M+H]+ calc'd for C23H29N5O2, 408.24. found 408.3.

reactant | (R)-5-(2-(1H-indol-4-yl)-6a,7,9,10-tetrahydro-[1,4]oxazino[3,4-h]pteridin-5(6H)-yl)-2-methylpentan-2-yl acetate | 0.107 mmol, 48 mg | C(C)(=O)OC(C)(CCCN1C=2C=NC(=NC2N2[C@H](C1)COCC2)C2=C1C=CNC1=CC=C2)C | C25H31N5O3
reactant | NaOH | 3N, 0.4 mL | [OH-].[Na+]
solvent | methanol | 3 mL | CO | CH4O
product | (R)-5-(2-(1H-indol-4-yl)-6a,7,9,10-tetrahydro-[1,4]oxazino[3,4-h]pteridin-5(6H)-yl)-2-methylpentan-2-ol | 31 mg, 71% | N1C=CC2=C(C=CC=C12)C1=NC=2N3[C@H](CN(C2C=N1)CCCC(C)(O)C)COCC3 | C23H29N5O2
